### ISSUE TITLE
Bug: simp? does not take reverse directions into account

### ISSUE THREAD

**Issue by sgouezel** [leanprover-community/mathlib4#7182]
MWE:
```lean
import Mathlib.Data.Nat.Basic

def foo : ℕ → ℕ := sorry
theorem foo_eq_iff (z : ℕ) : z = 17 ↔ foo z = 3 := sorry

theorem fail (z : ℕ) (h : z = 17) : foo z = 3 := by
  simp? [← foo_eq_iff]
  exact h
```
The `simp?` works fine, but the suggestion is to use `simp only [foo_eq_iff]`.
